US07612067B2
E. 5-(5-Bromo-4-chloro-thiophen-2-yl)-1-methyl-1H-[1,2,4]triazole.
A 3-L reaction flask equipped with a cooling bath, air stirrer, and thermometer probe is charged with 5-(4-Chloro-thiophen-2-yl)-1-methyl-1H-[1,2,4]triazole (105.3 g, 0.527 moles), ACN (1053 mL) and HOAc (105 mL) to form a solution. NBS (103.2 g, 0.580 moles) is added portion-wise over 30-60 minutes while maintaining the temperature at ≦31° C. After stirring for 1 hour2, GC analysis indicated reaction completion. The reaction mixture is poured into de-ionized H2O (2.1 L, 20 vol), stirred for 30 minutes, filtered, and washed with de-ionized H2O (2×1 L). The product is dried in a vacuum oven at 45° C. overnight to give the title compound as a pale yellow solid (123.0 g, 83.8%; 96.6% area-% by GC). 2 The reaction temperature decreased after 1 hour to 26.7° C.

reactant | 5-(4-Chloro-thiophen-2-yl)-1-methyl-1H-[1,2,4]triazole | 0.527 moles, 105.3 g | ClC=1C=C(SC1)C1=NC=NN1C | C7H6ClN3S
reactant | ACN | 1053 mL | C(C)#N | C2H3N
reactant | HOAc | 105 mL | CC(=O)O | C2H4O2
reactant | NBS | 0.580 moles, 103.2 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | H2O | 2.1 L | O | H2O
product | 5-(5-Bromo-4-chloro-thiophen-2-yl)-1-methyl-1H-[1,2,4]triazole | 123.0 g | BrC1=C(C=C(S1)C1=NC=NN1C)Cl | C7H5BrClN3S
